US09402841B2
Step A: (S)-tert-butyl 3-((3-cyano-8-fluoroisoquinolin-1-yl)oxy)pyrrolidine-1-carboxylate
To a solution of (S)-tert-butyl 3-hydroxypyrrolidine-1-carboxylate (2.18 g, 12 mmol) in THF (50 mL) was added NaH (0.464 g, 12 mmol) at 0° C. The mixture was stirred at RT for 30 minutes. Next, 1-chloro-8-fluoroisoquinoline-3-carbonitrile (1.6 g, 8 mmol) was added and the reaction mixture was warmed to RT and stirred for 4 hours. The reaction was subsequently quenched with H2O (20 mL) and the mixture was extracted with EtOAc (3×50 mL). The organic layers were combined and concentrated in vacuo. The crude product was purified by preparative HPLC to give the title compound (1 g, 60%). 1H NMR (400 MHz, CDCl3) δ ppm 7.72 (s, 2H), 7.61-7.59 (d, J=8 Hz, 1H), 7.38-7.32 (t, J=12 Hz, 1H), 5.8 (s, 1H), 3.75-3.59 (m, 4H), 2.29-2.28 (d, J=4 Hz, 2H).

reactant | (S)-tert-butyl 3-hydroxypyrrolidine-1-carboxylate | 12 mmol, 2.18 g | O[C@@H]1CN(CC1)C(=O)OC(C)(C)C | C9H17NO3
reactant | NaH | 12 mmol, 0.464 g | [H-].[Na+]
reactant | 1-chloro-8-fluoroisoquinoline-3-carbonitrile | 8 mmol, 1.6 g | ClC1=NC(=CC2=CC=CC(=C12)F)C#N | C10H4ClFN2
solvent | THF | 50 mL | C1CCOC1 | C4H8O
product | (S)-tert-butyl 3-((3-cyano-8-fluoroisoquinolin-1-yl)oxy)pyrrolidine-1-carboxylate | 1 g, 60% | C(#N)C=1N=C(C2=C(C=CC=C2C1)F)O[C@@H]1CN(CC1)C(=O)OC(C)(C)C | C19H20FN3O3
